US06521643B1
To a suspension of 3-(3-nitropyridin-2-yl)aniline (400 mg), N,N′-bis(tert-butoxycarbonyl)thiourea (616 mg) and diisopropylethylamine (0.745 ml) in dichloromethane (18.6 ml) was added 1-methyl-2-chloropyridinium iodide (618 mg), and the mixture was stirred for 16 hours. The mixture was diluted with ethyl acetate, washed with water and brine, dried over magnesium sulfate and evaporated under reduced pressure. The residue was purified by column chromatography (silica gel 30 g, n-hexane:ethyl acetate=4:1) to give N,N′-bis(tert-butoxycarbonyl)-N″-(3-(3-nitropyridin-2-yl)phenyl)guanidine (730 mg).

reactant | 3-(3-nitropyridin-2-yl)aniline | 400 mg | [N+](=O)([O-])C=1C(=NC=CC1)C=1C=C(N)C=CC1 | C11H9N3O2
reactant | N,N′-bis(tert-butoxycarbonyl)thiourea | 616 mg | C(C)(C)(C)OC(=O)NC(=S)NC(=O)OC(C)(C)C | C11H20N2O4S
reactant | diisopropylethylamine | 0.745 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 1-methyl-2-chloropyridinium iodide | 618 mg | [I-].C[N+]1=C(C=CC=C1)Cl
solvent | dichloromethane | 18.6 ml | ClCCl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N,N′-bis(tert-butoxycarbonyl)-N″-(3-(3-nitropyridin-2-yl)phenyl)guanidine | 730 mg | C(C)(C)(C)OC(=O)NC(=NC1=CC(=CC=C1)C1=NC=CC=C1[N+](=O)[O-])NC(=O)OC(C)(C)C | C22H27N5O6
